US07897792B2
3-(Methoxycarbonylhydrazono)-2-(3-nitrophenylamino)butanoic acid ethyl ester
3-Nitroaniline (2.92 g, 21.27 mmol) was added to a solution of ethyl 3-carbomethoxyazocrotonate (4.2 g, 21.13 mmol) (which is known in the literature) in THF (40 mL), and the mixture was stirred at 70° C. for a day and a night. After cooling to room temperature, hexane was added thereto, and the deposited precipitate was filtered out to yield the title compound (5.08 g, 71%).

reactant | 3-Nitroaniline | 21.27 mmol, 2.92 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | ethyl 3-carbomethoxyazocrotonate | 21.13 mmol, 4.2 g | C(=O)(OC)N=N\C(=C/C(=O)OCC)\C | C8H12N2O4
reactant | hexane | CCCCCC | C6H14
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-(Methoxycarbonylhydrazono)-2-(3-nitrophenylamino)butanoic acid ethyl ester | 5.08 g, 71% | C(C)OC(C(C(C)=NNC(=O)OC)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H18N4O6
